US07381719B2
2-Benzyl-5-methoxy-2,3-dihydro-1H-isoindol
Combine in a round bottom flask 1,2-bis-bromomethyl-4-methoxy-benzene (1.0 g, 3.40 mmol), benzyltriethylammonium chloride (73.5 mg, 3.2 mmol), 50% NaOH (aq)/toluene (3.0 mL/14 mL), and then drop wise add benzylamine (0.37 mL, 3.39 mmol). Stir the reaction at room temperature for 3 hours, add to ethyl acetate, wash with water, brine, and dry over Na2SO4. After concentrating under reduced pressure, add the mixture to a 10 g SCX column, wash with MeOH, and elute with 1.0 N NH3-MeOH. Flash chromatograph using 3:1 hexanes:ethyl acetate to afford 580.0 mg, 2.42 mmol (71% yield) of the title compound as a brown oil: 1H NMR (500 MHz, CDCl3); 3.7 (3H, s), 3.9-4.0 (6H, m), 6.7-6.8 (2H, m), 7.1 (1H, d), 7.3-7.5 (5H, m); MS m/z 238 (M−1).

reactant | 1,2-bis-bromomethyl-4-methoxy-benzene | 3.40 mmol, 1.0 g | BrCC1=C(C=C(C=C1)OC)CBr | C9H10Br2O
reactant | NaOH | [OH-].[Na+]
reactant | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | benzylamine | 3.39 mmol, 0.37 mL | C(C1=CC=CC=C1)N | C7H9N
catalyst | benzyltriethylammonium chloride | 3.2 mmol, 73.5 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Benzyl-5-methoxy-2,3-dihydro-1H-isoindol | 2.42 mmol, 580.0 mg, 71% yield | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)OC | C16H17NO
